US05633270
The procedure is similar to that described in Example 1, but starting with 1.36 g of benzyl (2R,4R)-3-[3-{2-[4-tert-butoxycarbonyl-2-(2-phenylphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido]phenylacetate, 0.44 g of ammonium formate and 0.6 g of palladium on charcoal (10% Pd). 0.25 g of (2R,4R)-3-[3-{2-[4-tert-butoxycarbonyl-2-(2-phenylphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido]phenylacetic acid, melting point 128° C., is thereby obtained; [α]D25 =-26.2°±0.9° (C %=0.56; MeOH).

reactant | benzyl (2R,4R)-3-[3-{2-[4-tert-butoxycarbonyl-2-(2-phenylphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido]phenylacetate | 1.36 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C=CC=C1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)CC(=O)OCC1=CC=CC=C1)=O)=O | C38H39N3O6S
reactant | ammonium formate | 0.44 g | C(=O)[O-].[NH4+]
catalyst | palladium on charcoal | 0.6 g | [Pd] | Pd
product | (2R,4R)-3-[3-{2-[4-tert-butoxycarbonyl-2-(2-phenylphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido]phenylacetic acid | 0.25 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C=CC=C1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)CC(=O)O)=O)=O | C31H33N3O6S
